US07608604B2
4-Fluoroisophthalonitrile
To a solution of 2-fluoro-5-formylbenzonitrile (5.1 g, 33.9 mmol) in water (75 ml) was added hydroxylamine-O-sulphonic acid (4.6 g, 40.7 mmol) and the reaction mixture was heated at 50° C. for 5 h. The mixture was filtered and the solid material was washed with water and dried in vacuo for 18 h to give the title compound (4.3 g)

reactant | 2-fluoro-5-formylbenzonitrile | 33.9 mmol, 5.1 g | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | hydroxylamine-O-sulphonic acid | 40.7 mmol, 4.6 g | NOS(=O)(=O)O | H3NO4S
solvent | water | 75 ml | O | H2O
product | 4-Fluoroisophthalonitrile | 4.3 g | FC1=C(C=C(C#N)C=C1)C#N | C8H3FN2
